US07855216B2
Step 3: 1-Cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2,3-dihydroxy-propoxy)-amide
To 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]-pyridine-2-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide (65.0 mg, 0.12 mmol) in anhydrous methanol (1.8 mL) was added 4 M Hydrogen chloride in 1,4-Dioxane (1.0 mL), and the reaction mixture was stirred at ambient temperature for 17 h. The solvent was removed in vacuo and the residue was redissolved in acetonitrile (2.0 mL) and loaded onto a Phenomenex Strata-X cartridge (5 g). The cartridge was washed with water (10 mL) and methanol (15 ml). The desired product was then eluted using 2M ammonia in MeOH. Methanol was removed in vacuo to give a brown oil, which was purified by HPLC to obtain 3.3 mg (5.5%) of the desired product as the TFA salt. 1H-NMR (500 MHz, MeOD.) δ ppm 8.96 (s, 1H), 8.45 (d, J=6.81 Hz, 1H), 8.18 (d, J=6.77 Hz, 1H), 7.48 (dd, J=10.76 Hz, 1H), 7.28 (d, J=8.50 Hz, 1H), 6.56 (t, J=9.6, 1H), 4.01-3.86 (m, 1H), 3.85-3.75 (m, 2H), 3.75-3.64 (m, 1H), 3.63-3.47 (m, 2H), 1.34-1.29 (m, 2H), 1.09-1.04 (m, 2H); LC-MS (method D): [M+H]+=527.0, RT=3.33 min.

reactant | 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]-pyridine-2-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 0.12 mmol, 65.0 mg | CC1(OCC(O1)CONC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)I)F)C | C23H24FIN4O4
reactant | Hydrogen chloride | 4 M | Cl | ClH
solvent | methanol | 1.8 mL | CO | CH4O
solvent | 1,4-Dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 1-Cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2,3-dihydroxy-propoxy)-amide | 3.3 mg, 5.5% | OC(CONC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)I)F)CO | C20H20FIN4O4
